US07429565B2
{2-Ethyl-4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enyloxymethyl}-phosphonic acid diisopropyl ester
To a solution of bromomethylphosphonate diisopropyl ester (680 mg, 2.62 mmol) and 6-(3-hydroxymethyl-pent-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one (688 mg, 1.75 mmol) in DMF (3 mL) was added lithium t-butoxide (1.0M in THF; 2.6 mL). The reaction was heated at 70° C. for 2 hours. After cooling to ambient temperature, more bromomethylphosphonate diisopropyl ester (680 mg, 2.62 mmol) and lithium t-butoxide (1.0M in THF; 2.6 mL) were added. The reaction mixture was heated at 70° C. for a further hour, cooled, poured into a solution of lithium chloride (5% aqueous) and extracted with ethyl acetate. The organic extract was dried and the product was purified by chromatography on silica gel, eluting with hexane-ethyl acetate to provide 347 mg (35%) of the product as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 0.04 (s, 9H), 1.09 (t, 3H, J=7.5 Hz), 1.20-1.26 (m, 2H), 1.31 (t, 12H, J=6 Hz), 2.18 (s, 3H), 2.29 (q, 2H, J=7.5 Hz), 3.5 (m, 2H), 3.59 (d, 2H, J=8.7 Hz), 3.78 (s, 3H), 3.98 (s, 2H), 4.28-4.35 (m, 2H), 4.6-4.8 (m, 2H), 5.13 (s, 2H), 5.4 (t, 1H, J=7 Hz) ppm; 31P (121.4 MHz, CDCl3) δ 20.26 ppm; MS (m/z) 593.3 [M+Na]+.

reactant | bromomethylphosphonate diisopropyl ester | 2.62 mmol, 680 mg | C(C)(C)OP(OC(C)C)(=O)CBr | C7H16BrO3P
reactant | 6-(3-hydroxymethyl-pent-2-enyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 1.75 mmol, 688 mg | OCC(=CCC1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)OC)CC | C21H32O5Si
reactant | lithium t-butoxide | 1.0M, 2.6 mL | CC(C)([O-])C.[Li+]
reactant | bromomethylphosphonate diisopropyl ester | 2.62 mmol, 680 mg | C(C)(C)OP(OC(C)C)(=O)CBr | C7H16BrO3P
reactant | lithium t-butoxide | 1.0M, 2.6 mL | CC(C)([O-])C.[Li+]
reactant | lithium chloride | [Cl-].[Li+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | {2-Ethyl-4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enyloxymethyl}-phosphonic acid diisopropyl ester | 347 mg, 35% | C(C)(C)OP(OC(C)C)(=O)COCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)CC | C28H47O8PSi
